US05977178
Tert-Butoxycarbonylaminoacetic acid (0.18 g; 2.39 mmol) was dissolved in methylene chloride (20 mL). 1-Hydroxybenzotriazole (0.32 g; 2.39 mmol) and N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (0.55 g; 2.87 mmol) were added and the reaction mixture was stirred for 15 min at room temperature. (2R)-3-(2-Fluorophenyl)-N-methyl-2-(methylamino)propionamide (1.0 g; 4.78 mmol) and diisopropylethylamine (0.9 mL; 5.26 mmol) was added and the reaction mixture was stirred for 12 hours at room temperature. A mixture of 2-(tert-butoxycarbonylmethylamino)-3-(2-naphthyl)propionic acid (0.78 g; 2.39 mmol), 1-hydroxy-7-azabenzotriazole (0.33 g; 2.39 mmol) and N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (0.55 g; 2.87 mmol) were dissolved in methylene chloride (20 mL) and added to the reaction mixture. The reaction mixture was stirred for 12 hours at room temperature. Methylene chloride (50 mL) was added and the reaction mixture was washed with water (30 mL), an aqueous solution of sodium hydrogen sulfate (10%; 30 mL), an aqueous solution of sodium hydrogen carbonate/sodium carbonate (pH 9; 30 mL) and water (30 mL) and dried (magnesium sulfate). The solvent was removed in vacuo and the residue was chromatographed on silica (2.5×30 cm) using ethyl acetate/heptane (2:1) as eluent to afford 0.86 g of N-((1R)-1-(N-((1R)-2-(2-fluorophenyl)-1-(methylcarbamoyl)ethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methyl-carbamic acid tert-butylester.

reactant | Tert-Butoxycarbonylaminoacetic acid | 2.39 mmol, 0.18 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 1-Hydroxybenzotriazole | 2.39 mmol, 0.32 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 2.87 mmol, 0.55 g | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-3-(2-Fluorophenyl)-N-methyl-2-(methylamino)propionamide | 4.78 mmol, 1.0 g | FC1=C(C=CC=C1)C[C@H](C(=O)NC)NC | C11H15FN2O
reactant | diisopropylethylamine | 5.26 mmol, 0.9 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(tert-butoxycarbonylmethylamino)-3-(2-naphthyl)propionic acid | 2.39 mmol, 0.78 g | C(C)(C)(C)OC(=O)CNC(C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | 1-hydroxy-7-azabenzotriazole | 2.39 mmol, 0.33 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 2.87 mmol, 0.55 g | Cl.CN(CCCN=C=NCC)C
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N-((1R)-1-(N-((1R)-2-(2-fluorophenyl)-1-(methylcarbamoyl)ethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methyl-carbamic acid tert-butylester | 0.86 g | C(C)(C)(C)OC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@H](CC1=C(C=CC=C1)F)C(NC)=O)=O)=O | C30H36FN3O4
